US06150379
A mixture comprising 2-(6-amidino-1H-benzimidazol-2-yl)pyridine-4-carboxylic acid (0.02 g, 0.06 mmol), HOBT (0.008 g, 0.07 mmol), PyBOP (0.032 g, 0.07 mmol), DMF (0.5 mL) and N-methylmorpholine (0.013 mL, 0.12 mmol) was shaken for 10 minutes and then benzyl amine (13 μL, 0.12 mmol) was added. The mixture was shaken for approximately 12 hours and combined with a mixture comprising ether and acetonitrile (5 mL) to give a precipitate. The precipitate was isolated by filtration and purified by HPLC to provide 6-(5-amidino-1H-benzimidazol-2-yl)-N-benzylpyridine-4-carboxamide (10 mg, 0.02 mmol); 1H-NMR (300 Mhz, DMSO-d6): 4.5 (d, 2H, J=5.5 Hz), 7.3 (m, 5H), 7.7 (m, 2H), 8.0 (dd, 1H), 8.2 (bs, 1H), 8.8 (s, 1H), 8.9 (m, 3H), 9.3 (s, 2H), 9.6 (t, 1H, J=1.5 Hz); MS (ESI), Calculated for C21H18N6O: 370.4, Found (MH+): 371.1.

reactant | 2-(6-amidino-1H-benzimidazol-2-yl)pyridine-4-carboxylic acid | 0.06 mmol, 0.02 g | C(N)(=N)C=1C=CC2=C(NC(=N2)C2=NC=CC(=C2)C(=O)O)C1 | C14H11N5O2
reactant | HOBT | 0.07 mmol, 0.008 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | PyBOP | 0.07 mmol, 0.032 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 0.12 mmol, 0.013 mL | CN1CCOCC1 | C5H11NO
reactant | benzyl amine | 0.12 mmol, 13 μL | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 6-(5-amidino-1H-benzimidazol-2-yl)-N-benzylpyridine-4-carboxamide | 0.02 mmol, 10 mg | C(N)(=N)C1=CC2=C(NC(=N2)C2=CC(=CC=N2)C(=O)NCC2=CC=CC=C2)C=C1 | C21H18N6O
